US07626029B2
4-[(3R)-3-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-2-fluoro-3-methoxybenzoic acid
Ethyl 4-[(3R)-3-(1-tert.-butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-2-fluoro-3-methoxybenzoic acid (3.61 g) was dissolved in 28 mL of ethanol, 1N aqueous sodium hydroxide solution (34.5 mL) was added to the solution, and the mixture was heated to 50° C. with stirring. After completion of the reaction, 10% aqueous citric acid solution was added to the mixture followed by extraction with chloroform. An organic layer was dried with anhydrous sodium sulfate and filtered, and then the solvent was distilled away. The title compound was obtained as residual crystals (4.45 g). The crystals were used in the next step without purification.

reactant | Ethyl 4-[(3R)-3-(1-tert.-butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-2-fluoro-3-methoxybenzoic acid | 3.61 g | C(C)C=1C(=C(C(=C(C(=O)O)C1)F)OC)N1C[C@@H](CC1)C1(CC1)NC(=O)OC(C)(C)C | C22H31FN2O5
reactant | sodium hydroxide | 1N, 34.5 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 28 mL | C(C)O | C2H6O
product | 4-[(3R)-3-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-2-fluoro-3-methoxybenzoic acid | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CN(CC1)C1=C(C(=C(C(=O)O)C=C1)F)OC | C20H27FN2O5
